US07977340B2
Step 1. 5-Bromo-3-nitro-2-(2,2,2-trifluoro-acetylamino)-benzoic Acid Methyl Ester
Stirred trifluoroacetic anhydride (120 ml) was cooled in an ice-salt bath and treated, over 5 min, with methyl-2-amino-5-bromobenzoate (10 g, 43.5 mmol), keeping the temperature below 6° C. When the addition was complete, the resultant suspension was stirred in the cold for a further 15 min when potassium nitrate (5.27 g, 52.2 mmol) was added in one portion. The reaction mixture was allowed to come to ambient temperature and stirred for 16 h. The resultant mixture was concentrated by evaporation, the residue diluted with saturated aqueous sodium hydrogen carbonate solution (300 ml) and extracted with ethyl acetate (3×250 ml) which was washed with brine (300 ml) and dried (MgSO4). The solvent was removed in vacuo to give the crude product which was purified by flash chromatography (silica) eluting with 10% to 90% ethyl acetate in 40-60 petroleum ether. A byproduct (5-Bromo-2-(2,2,2-trifluoro-acetylamino)-benzoic acid methyl ester) was eluted before the 5-Bromo-3-nitro-2-(2,2,2-trifluoro-acetylamino)-benzoic acid methyl ester which was obtained as a yellow solid (11.1 g, 69%).

reactant | methyl-2-amino-5-bromobenzoate | 43.5 mmol, 10 g | COC(C1=C(C=CC(=C1)Br)N)=O | C8H8BrNO2
reactant | potassium nitrate | 52.2 mmol, 5.27 g | [N+](=O)([O-])[O-].[K+]
reactant | trifluoroacetic anhydride | 120 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 5-Bromo-3-nitro-2-(2,2,2-trifluoro-acetylamino)-benzoic Acid Methyl Ester | 11.1 g, 69% | COC(C1=C(C(=CC(=C1)Br)[N+](=O)[O-])NC(C(F)(F)F)=O)=O | C10H6BrF3N2O5
